US04551552
1-Adamantyl methyl ketoxime, 2.0 g, was dissolved in 200 ml of ethanol and mixed with 1.0 ml of conc. hydrochloric acid. This solution was poured into a Parr hydrogenation flask, and 1.0 g of PtO2 was added. Hydrogenation under 35 psia (240 KPa) and at room temperature proceeded slowly. After two days of hydrogenation, the catalyst was removed. The filtrate was distilled to dryness and 100 ml water was added to the residue. The insoluble material was removed by filtration and the aqueous layer was basified with sodium hydroxide. The aqueous layer was extracted with ether and the ether layer was separated. The ether layer was then dried over potassium hydroxide pellets and then magnesium sulfate. The resultant ether solution was distilled to remove the solvent providing 1.0 g rimantadine free base (54% yield).

reactant | 1-Adamantyl methyl ketoxime | CC(=NO)C12CC3CC(CC(C1)C3)C2 | C12H19NO
reactant | hydrochloric acid | 1.0 ml | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | PtO2 | 1.0 g | O=[Pt]=O
product | rimantadine | 1.0 g, 54% yield | CC(C12CC3CC(C1)CC(C3)C2)N | C12H21N
